US07786307B2
f) tert-Butyl 4(S)-(2(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carbamate
The solution of 2.99 g of 2-(3-methoxypropoxy)benzoic acid [179992-98-4] and 3.95 ml of triethylamine in 60 ml of dichloromethane is cooled to 15° C. and admixed with 3.70 g of bis-(2-oxo-3-oxazolidynyl)phosphinoyl chloride. The mixture is stirred over 1 hour and subsequently admixed with the solution of 2.22 g of tert-butyl 4(S)-(2(S)-aminomethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carbamate in 3 ml of dichloromethane and 0.703 g of 4-dimethylaminopyridine, and stirred overnight. The reaction mixture is poured onto 1M NaOH and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed with water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a slightly yellowish oil. Rf=0.29 (1:1 EtOAc-heptane); Rt=5.49 (gradient I).

reactant | 2-(3-methoxypropoxy)benzoic acid | 2.99 g | COCCCOC1=C(C(=O)O)C=CC=C1 | C11H14O4
reactant | triethylamine | 3.95 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4(S)-(2(S)-aminomethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carbamate | 2.22 g | NC[C@@H](C[C@@H]1N(C(OC1)(C)C)NC(=O)OC(C)(C)C)C(C)C | C16H33N3O3
reactant | NaOH | 1M | [OH-].[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.703 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl 4(S)-(2(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carbamate | COCCCOC1=C(C(=O)NC[C@@H](C[C@@H]2N(C(OC2)(C)C)NC(=O)OC(C)(C)C)C(C)C)C=CC=C1 | C27H45N3O6
